US04559354
Analogously to Example 12, 19.5 g of 3-[4-(2,3-epoxypropoxy)-phenyl]-4-methyl-5-methylthio-4H-1,2,4-triazole are reacted with 11.0 g of 5-(2-aminoethoxy)-salicylamide in 70 ml of dimethyl sulphoxide. The resin-like crude product that is obtained on mixing with water is extracted by boiling with dioxan, the dioxan solution is concentrated by evaporation and the residue is recrystallised from methanol. 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(4-methyl-5-methylthio-4H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol having a melting point of 123°-125° is obtained.

reactant | 3-[4-(2,3-epoxypropoxy)-phenyl]-4-methyl-5-methylthio-4H-1,2,4-triazole | 19.5 g | O1C(COC2=CC=C(C=C2)C2=NN=C(N2C)SC)C1 | C13H15N3O2S
reactant | 5-(2-aminoethoxy)-salicylamide | 11.0 g | NCCOC1=CC=C(C(C(=O)N)=C1)O | C9H12N2O3
reactant | water | O | H2O
solvent | dimethyl sulphoxide | 70 ml | CS(=O)C | C2H6OS
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(4-methyl-5-methylthio-4H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C2=NN=C(N2C)SC)O)C=CC1O | C22H27N5O5S
